US06174885B1
{6-[(Octadecylamino)carbonyl]-3-cyclohexenyl}methyl 4-benzyltetrahydro-1(2H)-pyrazinecarboxylate hydrochloride (Compound 8)
4N Hydrochloric acid/ethyl acetate solution (1.28 ml) was added to a solution of {6-[(octadecylamino)carbonyl]-3-cyclohexenyl}methyl 4-benzyltetrahydro-1(2H)-pyrazine carboxylate (2.600 g) in ethyl acetate (26 ml). After being stirred for half an hour at room temperature, the reaction mixture was concentrated. The residue was recrystallized with ethyl acetate-ethanol mixed solution, thereby yielding the entitled compound (2.412 g) as white solid.

reactant | Hydrochloric acid ethyl acetate | 4N, 1.28 ml | Cl.C(C)(=O)OCC
reactant | {6-[(octadecylamino)carbonyl]-3-cyclohexenyl}methyl 4-benzyltetrahydro-1(2H)-pyrazine carboxylate | 2.600 g | C(C1=CC=CC=C1)N1CCN(CC1)C(=O)OCC1CC=CCC1C(=O)NCCCCCCCCCCCCCCCCCC | C38H63N3O3
solvent | ethyl acetate | 26 ml | C(C)(=O)OCC | C4H8O2
product | {6-[(Octadecylamino)carbonyl]-3-cyclohexenyl}methyl 4-benzyltetrahydro-1(2H)-pyrazinecarboxylate hydrochloride | 2.412 g | Cl.C(C1=CC=CC=C1)N1CCN(CC1)C(=O)OCC1CC=CCC1C(=O)NCCCCCCCCCCCCCCCCCC | InChI=1S/C38H63N3O3.ClH/c1-2-3-4-5-6-7-8-9-10-11-12-13-14-15-16-22-27-39-37(42)36-26-21-20-25-35(36)33-44-38(43)41-30-28-40(29-31-41)32-34-23-18-17-19-24-34;/h17-21,23-24,35-36H,2-16,22,25-33H2,1H3,(H,39,42);1H
